US06720320B2
2-(4,4-dimethyloxazolin-2-yl)-4-hydroxybenzo(b)furan
By the reactions in the same manner as in Starting Material Synthesis Example 5 using 2-(4,4-dimethyloxazolin-2-yl)-4-methoxybenzo(b)furan (6.11 g) and boron tribromide (6.11 ml), the title compound (5.03 g) was obtained as pale-yellow crystals, melting point 187-188° C.

reactant | 2-(4,4-dimethyloxazolin-2-yl)-4-methoxybenzo(b)furan | 6.11 g | CC1(N=C(OC1)C1=CC2=C(O1)C=CC=C2OC)C | C14H15NO3
reactant | boron tribromide | 6.11 ml | B(Br)(Br)Br | BBr3
product | 2-(4,4-dimethyloxazolin-2-yl)-4-hydroxybenzo(b)furan | 5.03 g | CC1(N=C(OC1)C1=CC2=C(O1)C=CC=C2O)C | C13H13NO3
